US08183245B2
To a stirred solution of tert-butyl 4-{6-[5-(1-methyl-1H-pyrazol-4-yl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]pyrazin-2-yl}piperazine-1-carboxylate (0.077 g, 0.13 mmol) in MeOH (1.3 ml) was added potassium carbonate (0.053 g, 0.34 mmol). The reaction mixture was stirred at 50° C. for 1 hour, then at room temperature for 16 hours. The reaction mixture was diluted with MeOH (10 mL) and DCM (10 mL), silica gel was added, and concentrated to a crude residue. The crude residue was purified by silica gel chromatography (EtOAc/Hexanes gradient, followed by MeOH/DCM gradient) to afford tert-butyl 4-{6-[5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]pyrazin-2-yl}piperazine-1-carboxylate as a white solid. LRMS calculated for C24H28N8O2 [M+H]+, 461.2; found 461.2.

reactant | tert-butyl 4-{6-[5-(1-methyl-1H-pyrazol-4-yl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]pyrazin-2-yl}piperazine-1-carboxylate | 0.13 mmol, 0.077 g | CN1N=CC(=C1)C=1C=C2C(=NC1)N(C=C2C2=CN=CC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=CC=C2 | C30H32N8O4S
reactant | potassium carbonate | 0.34 mmol, 0.053 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 1.3 ml | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{6-[5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]pyrazin-2-yl}piperazine-1-carboxylate | CN1N=CC(=C1)C=1C=C2C(=NC1)NC=C2C2=CN=CC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C | C24H28N8O2
